US04886835
The procedure is as in Example 2, starting with diethyl 2-dimethylamino-5-n-butylthio-2,4-hexadienedioate (10 g), 12N aqueous hydrochloric acid solution (63 cc) and ethanol (100 cc). The mixture is maintained for 1 hour at a temperature of approximately 20° C. After purification by chromatography on a silica column with dichloromethane as eluent, diethyl 2-hydroxy-5-n-butylthio-2,4-hexadienedioate (5.6 g), m.p. 37° C., is obtained. Diethyl 2-dimethylamino-5-n-butylthio-2,4-hexadienedioate may be prepared in the following manner:

reactant | diethyl 2-dimethylamino-5-n-butylthio-2,4-hexadienedioate | 10 g | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)CCCC)C | C16H27NO3S
reactant | hydrochloric acid | 12N, 63 cc | Cl | ClH
reactant | ethanol | 100 cc | C(C)O | C2H6O
product | diethyl 2-hydroxy-5-n-butylthio-2,4-hexadienedioate | 5.6 g | OC(C(=S)OCC)=CC=C(C(=O)OCC)CCCC | C14H22O4S
